US06352993B1
Step 1: 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4tetrahydroisoquinolin-2-yl)pyrimidine
The same procedures as in Step 1 of Example 25 were repeated using 2,4-dichloro-6-methoxymethyl-5-methylpyrimidine(1.3 g, 6.3 mmol) and 1-methyl-1,2,3,4-tetrahydroisoquinoline(1.02 g, 6.93 mmol) to afford 1.2 g of the titled compound. (Yield: 60%)

reactant | 2,4-dichloro-6-methoxymethyl-5-methylpyrimidine | 6.3 mmol, 1.3 g | ClC1=NC(=C(C(=N1)Cl)C)COC | C7H8Cl2N2O
reactant | 1-methyl-1,2,3,4-tetrahydroisoquinoline | 6.93 mmol, 1.02 g | CC1NCCC2=CC=CC=C12 | C10H13N
product | 6-methoxymethyl-5-methyl-2-chloro-4-(1-methyl-1,2,3,4tetrahydroisoquinolin-2-yl)pyrimidine | 1.2 g, Yield: 60% | COCC1=C(C(=NC(=N1)Cl)N1C(C2=CC=CC=C2CC1)C)C | C17H20ClN3O
